US04220646
4-Chlorocarbonyl-1-t.-butoxycarbonylpiperazine can be prepared by the simultaneous additions of solutions of 1-t.-butoxycarbonylpiperazine (40.8 g.) in anhydrous toluene (200 cc.) and of phosgene (11.2 g.) in anhydrous toluene (150 cc.) to anhydrous toluene (100 cc.), the temperature being kept at about -5° C. during this operation. After stirring for 1 hour at 2° C., the 1-t.-butoxycarbonylpiperazine hydrochloride formed during the reaction is filtered off and washed twice with anhydrous toluene (total 200 cc.). The filtrate is evaporated to dryness under reduced pressure (20 mm.Hg.). 4-Chlorocarbonyl-1-t.-butoxycarbonylpiperazine (24.8 g.), which melts at 98° C., is obtained. After the product has been purified by recrystallisation from diisopropyl ether, it melts at 99° C.

reactant | butoxycarbonylpiperazine | C(CCC)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | butoxycarbonylpiperazine | 40.8 g | C(CCC)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | phosgene | 11.2 g | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 200 cc | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 cc | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 cc | C1(=CC=CC=C1)C | C7H8
product | butoxycarbonylpiperazine hydrochloride | Cl.C(CCC)OC(=O)N1CCNCC1 | InChI=1S/C9H18N2O2.ClH/c1-2-3-8-13-9(12)11-6-4-10-5-7-11;/h10H,2-8H2,1H3;1H
